US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-5-pyrazin-2-yl-thiophen-2-yl)-imidazo[1,2-b]pyridazine
Using a procedure similar to Example 31, 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.40 g, 1.02 mmol) (example Rupp-2), 2-chloropyrazine (0.11 mL, 1.22 mmol), 1.42 M n-Bu-Li (1.52 mL, 1.07 mmol), 0.5 M ZnCl2 in THF (2.14 mL, 1.07 mmol), and PdCl2(dppf) (0.037 g, 0.051 mmol) furnish the title compound (0.19 g, 0.49 mmol, 48%). 1H NMR (CDCl3), δ 0.90 (t, J=7.5 Hz, 6H), 1.75-1.94 (m, 4H), 2.20 (s, 3H), 2.52 (s, 3H), 2.53 (s, 3H), 3.31-3.40 (m, 1H), 6.69 (s, 1H), 7.63 (s, 1H), 8.40 (d, J=2.6 Hz, 1H), 8.51 (t, J=1.9 Hz, 1H), 8.96 (d, J=0.9 Hz, 1H). LC/MS (m/z): calcd. for C22H25N5S (M+H)+: 392.3; found: 392.2.

reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.02 mmol, 0.40 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | 2-chloropyrazine | 1.22 mmol, 0.11 mL | ClC1=NC=CN=C1 | C4H3ClN2
reactant | n-Bu-Li | 1.07 mmol, 1.42 M, 1.52 mL | C(CCC)[Li]
reactant | THF | 1.07 mmol, 2.14 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 0.5 M | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(dppf) | 0.051 mmol, 0.037 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-(3-methyl-5-pyrazin-2-yl-thiophen-2-yl)-imidazo[1,2-b]pyridazine | 0.49 mmol, 0.19 g, 48% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2C)C2=NC=CN=C2 | C22H25N5S
